US07592457B2
5-chloro-3-(4-methoxy-phenyl)-3-methyl-7-(4-methyl-piperazine-1-yl)-1H-quinoline-2,4-dione
A mixture of 5,7-dichloro-3-(4-methoxy-phenyl)-3-methyl-1H-quinoline-2,4-dione (0.10 g, 0.29 mmol) and 1-methylpiperazine (3.0 mL) was heated at reflux temperature overnight. Excessive 1-methylpiperazine was removed by evaporation in vacuo. The residue was diluted with water (50 mL), and resulting suspension was extracted with ethyl acetate (50 mL×3). The organic layer was washed with brine (50 ml×2), dried over anhydrous MgSO4, and concentrated under reduced pressure. The pure objective compound (38 mg, 32%) was obtained as yellow solid by a flash column chromatography (CH2Cl2:MeOH=20:1): 1H NMR (200 MHz, CDCl3) δ 1.82 (s, 3H, CH3), 2.33 (s, 3H, NCH3), 2.44-2.65 (m, 4H, 2×NCH2), 2.88-2.91 (m, 4H, 2×NCH2), 3.74 (s, 3H, OCH3), 6.43 (d, J=1.8 Hz, 1H, ArH) 6.54 (d, J=1.8 Hz, 1H, ArH), 6.80 (d, J=9.0 Hz, 1H, ArH), 7.19 (d, J=9.0 Hz, 1H, ArH), 9.23 (s, 1H, NH); m.p. 201-202° C.; MS(EI) m/e 413 [M+]; HRMS m/e cacld. for C22H24N3O3Cl1 413.1506, found 413.1516.

reactant | 5,7-dichloro-3-(4-methoxy-phenyl)-3-methyl-1H-quinoline-2,4-dione | 0.29 mmol, 0.10 g | ClC1=C2C(C(C(NC2=CC(=C1)Cl)=O)(C)C1=CC=C(C=C1)OC)=O | C17H13Cl2NO3
reactant | 1-methylpiperazine | 3.0 mL | CN1CCNCC1 | C5H12N2
product | 5-chloro-3-(4-methoxy-phenyl)-3-methyl-7-(4-methyl-piperazine-1-yl)-1H-quinoline-2,4-dione | 38 mg, 32% | ClC1=C2C(C(C(NC2=CC(=C1)N1CCN(CC1)C)=O)(C)C1=CC=C(C=C1)OC)=O | C22H24ClN3O3
